US06060462
N-methyl-N-[(3,4-dichlorophenyl)acetyl]glycine
The title compound was prepared from commercially available sarcosine ethyl ester and 3,4-dichlorophenylacetic acid according to the procedure of Intermediate 1.

reactant | sarcosine ethyl ester | C(C)OC(CNC)=O | C5H11NO2
reactant | 3,4-dichlorophenylacetic acid | ClC=1C=C(C=CC1Cl)CC(=O)O | C8H6Cl2O2
product | N-methyl-N-[(3,4-dichlorophenyl)acetyl]glycine | CN(CC(=O)O)C(CC1=CC(=C(C=C1)Cl)Cl)=O | C11H11Cl2NO3
